US06500863B1
N-[(1-tert-butoxycarbonylpiperidin-4-yl)methyl]-3-amino-6-chloro-2-hydroxybenzenesulfonamide
Following the general hydrogenation procedure outlined in example 15, N-[(1-tert-butoxycarbonylpiperidin-4-yl)methyl]-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide (480 mg, 1.07 mmol) was reduced with hydrogen and 10% Pd/C (240 mg). The crude product (460 mg) was carried on to the next step without purification. 1H NMR (MeOD-d4): δ 6.86 (m, 2H), 4.00 (d, 2H), 2.83 (m, 2H), 2.78 (m, 2H), 1.60 (m, 3 H), 1.44 (s, 9H), 1.00 (m, 2H).

reactant | N-[(1-tert-butoxycarbonylpiperidin-4-yl)methyl]-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | 1.07 mmol, 480 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C17H24ClN3O7S
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 240 mg | [Pd] | Pd
product | N-[(1-tert-butoxycarbonylpiperidin-4-yl)methyl]-3-amino-6-chloro-2-hydroxybenzenesulfonamide | C(C)(C)(C)OC(=O)N1CCC(CC1)CNS(=O)(=O)C1=C(C(=CC=C1Cl)N)O | C17H26ClN3O5S
